US07989438B2
Step 1: 1-(methoxymethoxy)-2-methylbenzene
To a suspension of NaH (60% dispersion in mineral oil; 1.2 eq) in Et2O/DMF (5:1, 0.2M) a solution of o-cresol in Et2O (1 eq, 2M) was added dropwise over 15 min. A solution of MOMCl in Et2O (1.1 eq, 2M) was added and the mixture was stirred for 30 min then poured into H2O and extracted with Et2O. The combined organic extracts were washed with 1N NaOH, H2O and brine, dried over Na2SO4, filtered and evaporated in vacuo to give the title compound. The product was used in the next step without further purification.

reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | Et2O | 2M, 1 eq | CCOCC | C4H10O
reactant | MOMCl | C(OC)Cl | C2H5ClO
reactant | Et2O | 2M, 1.1 eq | CCOCC | C4H10O
solvent | Et2O DMF | 0.2M | CCOCC.CN(C)C=O
solvent | H2O | O | H2O
product | 1-(methoxymethoxy)-2-methylbenzene | COCOC1=C(C=CC=C1)C | C9H12O2
